US07524813B2
Sodium azide (4.66 g, 72 mmol) and tetrabutylammonium iodide (66 mg, 0.18 mmol) were successively added to a solution of methyl 11-bromoundecanoate (commercially available at Aldrich, 5.00 g, 17.9 mmol) in N,N-dimethylformamide (50 ml). The reaction mixture was heated to 60° C. for 16 h and cooled to room temperature. It was diluted with water (200 ml) and extracted with ethyl acetate (200 ml). The aqueous phase was washed with water (2×200 ml). The organic phase was dried over sodium sulphate. The solvent was removed in vacuo to give 4.28 g of methyl 11-azidoundecanoate.

reactant | Sodium azide | 72 mmol, 4.66 g | [N-]=[N+]=[N-].[Na+]
reactant | methyl 11-bromoundecanoate | BrCCCCCCCCCCC(=O)OC | C12H23BrO2
catalyst | tetrabutylammonium iodide | 0.18 mmol, 66 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | methyl 11-azidoundecanoate | 4.28 g | N(=[N+]=[N-])CCCCCCCCCCC(=O)OC | C12H23N3O2
